US04891432
To a mixture of 0.90 g 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoic acid, 10 ml dichloromethane, 0.24 ml benzyl alcohol and 30 mg dimethylaminopyridine, was added with stirring 0.46 g dicyclohexylcarbodiimide at room temperature, and stirring was continued for five days. The urea which separated out was filtered off, and the filtrate was washed with 0.1N caustic soda solution and then with water. After dehydration, the solvents were distilled off, and the residue was purified by silical gel column chromatogrpahy, affording 1.05 g of benzyl 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoate.

reactant | 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoic acid | 0.90 g | N1(C=NC=C1)CCCCCOC1=CC=C(OCCCCC(C(=O)O)(C)C)C=C1 | C22H32N2O4
reactant | benzyl alcohol | 0.24 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | dimethylaminopyridine | 30 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 0.46 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | benzyl 6-[p-[5-(1-imidazolyl)pentyloxy]phenoxy]-2,2-dimethylhexanoate | 1.05 g | N1(C=NC=C1)CCCCCOC1=CC=C(OCCCCC(C(=O)OCC2=CC=CC=C2)(C)C)C=C1 | C29H38N2O4
